US05558978
Preparation of 1-(4-vinylphenoxy)-1-tert-butoxyethane.
12.02 g (100 mmol) of 4-hydroxystyrene, 0.09 g of p-toluenesulfonic acid and 100 ml of diethyl ether are introduced under a nitrogen atmosphere into a 250 ml three-neck flask. The mixture is cooled to between 0° and 5° C., and 11.02 g (110 mmol) of tert-butyl vinyl ether are added dropwise at this temperature over the course of 15 minutes. The mixture is then stirred at 10° C. for 2 hours. The reaction mixture is washed three times with 150 ml of 1N NaOH and three times with demineralized water. Stripping off of the solvent gives 16 g (72% of theory) of the desired product in the form of a yellow oil.

reactant | 4-hydroxystyrene | 100 mmol, 12.02 g | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | p-toluenesulfonic acid | 0.09 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tert-butyl vinyl ether | 110 mmol, 11.02 g | C(=C)OC(C)(C)C | C6H12O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-(4-vinylphenoxy)-1-tert-butoxyethane | C(=C)C1=CC=C(OC(C)OC(C)(C)C)C=C1 | C14H20O2
